********************************************
* Infineon Technologies                    *
* Double Transistors (Current mirrors)     *
* SPICE Models (2G6 Syntax)                *
* Edition: 1.1                             *
* Date:    Apr. 2002                       *
* Author:  J.P. Schaffer                   *
********************************************
* Pinout of Subcircuits:                   *
* 1: Collector 2 + Base 1 + Base 2         *
* 2: Collector 1                           *
* 3: Emitter 1                             *
* 4: Emitter 2                             *
********************************************
* This file contains the following types:  *
*                                          *
* Name       Package                       *
*                                          *
* BCV61A     SOT143                        *
* BCV61B     SOT143                        *
* BCV61C     SOT143                        *
*                                          *
* BCV62A     SOT143                        *
* BCV62B     SOT143                        *
* BCV62C     SOT143                        *
********************************************
* BCV61A      SUBCIRCUIT                   *
********************************************
.subckt BCV61A 1 2 3 4
L1O   1  10        0.4n
L2O   2  20        0.4n
L3O   3  30        0.4n
L4O   4  40        0.4n
L3I  30 300        0.5n
L4I  40 400        0.5n
LB1 200  10        0.4n
LB2 150  10        0.4n
C12  10  20       0.05p
C23  20  30       0.10p
C34  30  40       0.10p
C14  10  40       0.05p
Q1   20 200  300  T0257A
Q2   10 150  400  T0257A
.ends BCV61A
********************************************
* BCV61B      SUBCIRCUIT                   *
********************************************
.subckt BCV61B 1 2 3 4
L1O   1  10        0.4n
L2O   2  20        0.4n
L3O   3  30        0.4n
L4O   4  40        0.4n
L3I  30 300        0.5n
L4I  40 400        0.5n
LB1 200  10        0.4n
LB2 150  10        0.4n
C12  10  20       0.05p
C23  20  30       0.10p
C34  30  40       0.10p
C14  10  40       0.05p
Q1   20 200  300  T0257B
Q2   10 150  400  T0257B
.ends BCV61B
********************************************
* BCV61C      SUBCIRCUIT                   *
********************************************
.subckt BCV61C 1 2 3 4
L1O   1  10        0.4n
L2O   2  20        0.4n
L3O   3  30        0.4n
L4O   4  40        0.4n
L3I  30 300        0.5n
L4I  40 400        0.5n
LB1 200  10        0.4n
LB2 150  10        0.4n
C12  10  20       0.05p
C23  20  30       0.10p
C34  30  40       0.10p
C14  10  40       0.05p
Q1   20 200  300  T0257C
Q2   10 150  400  T0257C
.ends BCV61C
********************************************
* BCV62A      SUBCIRCUIT                   *
********************************************
.subckt BCV62A 1 2 3 4
L1O   1  10        0.4n
L2O   2  20        0.4n
L3O   3  30        0.4n
L4O   4  40        0.4n
L3I  30 300        0.5n
L4I  40 400        0.5n
LB1 200  10        0.4n
LB2 150  10        0.4n
C12  10  20       0.05p
C23  20  30       0.10p
C34  30  40       0.10p
C14  10  40       0.05p
Q1   20 200  300  T0094A
Q2   10 150  400  T0094A
.ends BCV62A
********************************************
* BCV62B      SUBCIRCUIT                   *
********************************************
.subckt BCV62B 1 2 3 4
L1O   1  10        0.4n
L2O   2  20        0.4n
L3O   3  30        0.4n
L4O   4  40        0.4n
L3I  30 300        0.5n
L4I  40 400        0.5n
LB1 200  10        0.4n
LB2 150  10        0.4n
C12  10  20       0.05p
C23  20  30       0.10p
C34  30  40       0.10p
C14  10  40       0.05p
Q1   20 200  300  T0094B
Q2   10 150  400  T0094B
.ends BCV62B
********************************************
* BCV62C      SUBCIRCUIT                   *
********************************************
.subckt BCV62C 1 2 3 4
L1O   1  10        0.4n
L2O   2  20        0.4n
L3O   3  30        0.4n
L4O   4  40        0.4n
L3I  30 300        0.5n
L4I  40 400        0.5n
LB1 200  10        0.4n
LB2 150  10        0.4n
C12  10  20       0.05p
C23  20  30       0.10p
C34  30  40       0.10p
C14  10  40       0.05p
Q1   20 200  300  T0094C
Q2   10 150  400  T0094C
.ends BCV62C
***************************************************************
* SPICE2G6 MODEL OF THE NPN BIPOLAR TRANSISTOR CHIP IN BCV61A *
* REV: 1.0                                                    *
***************************************************************
.MODEL T0257A NPN (IS=45.000F NF=1.010 BF=180 VAF=74.000 IKF=0.708
+ ISE=55.668F NE=2.567 NR=1.015 BR=7.745 VAR=14.000 IKR=1.000
+ ISC=1.084P NC=4.063
+ RB=9.000 IRB=0.100M RBM=4.500
+ RE=0.350 RC=1.445
+ CJE=13.050P VJE=0.690 MJE=0.375 FC=0.750
+ CJC=4.100P VJC=0.750 MJC=0.420 XCJC=0.650
+ TF=0.620N TR=2.5N PTF=1.000
+ XTF=68.000 VTF=1.000 ITF=0.720
+ XTB=1.400 EG=1.110 XTI=3.200
+ KF=10.000F AF=1.000)
***************************************************************
* SPICE2G6 MODEL OF THE NPN BIPOLAR TRANSISTOR CHIP IN BCV61B *
* REV: 1.0                                                    *
***************************************************************
.MODEL T0257B NPN (IS=45.000F NF=1.010 BF=290 VAF=74.000 IKF=0.708
+ ISE=55.668F NE=2.567 NR=1.015 BR=7.745 VAR=14.000 IKR=1.000
+ ISC=1.084P NC=4.063
+ RB=9.000 IRB=0.100M RBM=4.500
+ RE=0.350 RC=1.445
+ CJE=13.050P VJE=0.690 MJE=0.375 FC=0.750
+ CJC=4.100P VJC=0.750 MJC=0.420 XCJC=0.650
+ TF=0.620N TR=2.5N PTF=1.000
+ XTF=68.000 VTF=1.000 ITF=0.720
+ XTB=1.400 EG=1.110 XTI=3.200
+ KF=10.000F AF=1.000)
***************************************************************
* SPICE2G6 MODEL OF THE NPN BIPOLAR TRANSISTOR CHIP IN BCV61C *
* REV: 1.0                                                    *
***************************************************************
.MODEL T0257C NPN (IS=45.000F NF=1.010 BF=520 VAF=74.000 IKF=0.708
+ ISE=55.668F NE=2.567 NR=1.015 BR=7.745 VAR=14.000 IKR=1.000
+ ISC=1.084P NC=4.063
+ RB=9.000 IRB=0.100M RBM=4.500
+ RE=0.350 RC=1.445
+ CJE=13.050P VJE=0.690 MJE=0.375 FC=0.750
+ CJC=4.100P VJC=0.750 MJC=0.420 XCJC=0.650
+ TF=0.620N TR=2.5N PTF=1.000
+ XTF=68.000 VTF=1.000 ITF=0.720
+ XTB=1.400 EG=1.110 XTI=3.200
+ KF=10.000F AF=1.000)
***************************************************************
* SPICE2G6 MODEL OF THE NPN BIPOLAR TRANSISTOR CHIP IN BCV62A *
* REV: 1.0                                                    *
***************************************************************
.MODEL T0094A PNP (IS=28.000F NF=1.000 BF=180 VAF=43.000 IKF=0.380
+ ISE=24.903F NE=2.234 NR=1.005 BR=4.800 VAR=6.960 IKR=0.932
+ ISC=0.125P NC=2.074
+ RB=2.200 IRB=0.100M RBM=1.500
+ RE=0.300 RC=2.251
+ CJE=11.800P VJE=1.000 MJE=0.435 FC=0.750
+ CJC=8.700P VJC=0.900 MJC=0.600 XCJC=0.650
+ TF=0.600N TR=2.604N PTF=1.000
+ XTF=6.500 VTF=2.000 ITF=0.314
+ XTB=1.600 EG=1.110 XTI=3.300
+ KF=5.000F AF=1.000)
***************************************************************
* SPICE2G6 MODEL OF THE NPN BIPOLAR TRANSISTOR CHIP IN BCV62B *
* REV: 1.0                                                    *
***************************************************************
.MODEL T0094B PNP (IS=28.000F NF=1.000 BF=290 VAF=43.000 IKF=0.380
+ ISE=24.903F NE=2.234 NR=1.005 BR=4.800 VAR=6.960 IKR=0.932
+ ISC=0.125P NC=2.074
+ RB=2.200 IRB=0.100M RBM=1.500
+ RE=0.300 RC=2.251
+ CJE=11.800P VJE=1.000 MJE=0.435 FC=0.750
+ CJC=8.700P VJC=0.900 MJC=0.600 XCJC=0.650
+ TF=0.600N TR=2.604N PTF=1.000
+ XTF=6.500 VTF=2.000 ITF=0.314
+ XTB=1.600 EG=1.110 XTI=3.300
+ KF=5.000F AF=1.000)
***************************************************************
* SPICE2G6 MODEL OF THE NPN BIPOLAR TRANSISTOR CHIP IN BCV62C *
* REV: 1.0                                                    *
***************************************************************
.MODEL T0094C PNP (IS=28.000F NF=1.000 BF=520 VAF=43.000 IKF=0.380
+ ISE=24.903F NE=2.234 NR=1.005 BR=4.800 VAR=6.960 IKR=0.932
+ ISC=0.125P NC=2.074
+ RB=2.200 IRB=0.100M RBM=1.500
+ RE=0.300 RC=2.251
+ CJE=11.800P VJE=1.000 MJE=0.435 FC=0.750
+ CJC=8.700P VJC=0.900 MJC=0.600 XCJC=0.650
+ TF=0.600N TR=2.604N PTF=1.000
+ XTF=6.500 VTF=2.000 ITF=0.314
+ XTB=1.600 EG=1.110 XTI=3.300
+ KF=5.000F AF=1.000)
