* TUBE LIBRARY

* This library was developed by Norman Koren.
*
* For details, refer to the article, "Improved Vacuum-Tube Models
* for SPICE simulations," Glass Audio, Vol. 8, No. 5, 1996,
* available from Audio Amateur Corporation, 305 Union St.,
* PO Box 176, Peterborough, NH 03458 USA.  Phone 603-924-9464.
*
* All the usual legal disclaimers apply.  The author has made
* every effort to provide correct information, but assumes no
* liabilities for errors, misuse of the models,
* or inevitable changes made by users.
*
* The author welcomes your comments, stories, and questions
* (if they don't require too much effort to answer).  For really
* BIG stuff, he will consider consulting for a fee.
* Please contact Norman Koren by Email at kormar@cts.com.
*
* Some models are commented out because the evaluation version of
* Pspice has a maximum of twenty.

.SUBCKT 6550 1 2 3 4
* + PARAMS: MU=7.9 EX=1.35 KG1=890 KG2=4200 KP=60 KVB=24
* +         CCG=14P CPG1=.85P CCP=12P RGI=1K
RE1  7 0  1MEG
E1   7 0  20
* G1   1 3  10
* G2   4 3  VALUE={(EXP(EX*(LOG((V(4,3)/MU)+V(2,3)))))/KG2}
* * G2   4 3  VALUE={PWR(V(4,3)/MU+V(2,3),EX)/KG2}
* RCP  1 3  1G      ; FOR CONVERGENCE
* C1   2 3  {CCG}   ; CATHODE-GRID 1
* C2   1 2  {CPG1}  ; GRID 1-PLATE
* C3   1 3  {CCP}   ; CATHODE-PLATE
* R1   2 5  {RGI}   ; FOR GRID CURRENT
* D3   5 3  DX      ; FOR GRID CURRENT
* .MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS
