**********************************************************
* Parameters: none
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
**********************************************************
.SUBCKT CCM1 1  2  3  4  5
BEt 1 2 V={(1-v(5))*v(3,4)/v(5)}
BGd 4 3 I={(1-v(5))*i(BEt)/v(5)}
.ends
**********************************************************
